USRE033024
A mixture of 3.72 g of 5-bromoacetyl-8-benzyloxycarbostyril, 3.3 g of N-(2-(p-methoxyphenyl)-1-methylethyl)amine, 2.6 g of sodium bicarbonate, 10 ml of methylene chloride and 2 ml of dimethylformamide is refluxed for 30 minutes under stirring. The mixture is concentrated under reduced pressure to remove solvent. The residue is extracted with chloroform, and the extract is washed with 10% hydrochloric acid, dried and then concentrated under reduced pressure to remove solvent. The residue is rcrystallized form a mixture of ethanol and isopropanol. 3.53 g of 8-benzyloxy-5-{1-oxo-2-[N-(2-(p-methoxypheyl)-1-methylethyl)amino]ethyl}carbostyril hydrochloride are obtained as colorless needles. Yield: 71.6%

reactant | 5-bromoacetyl-8-benzyloxycarbostyril | 3.72 g | BrCC(=O)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C18H14BrNO3
reactant | N-(2-(p-methoxyphenyl)-1-methylethyl)amine | 3.3 g | COC1=CC=C(C=C1)CC(C)N | C10H15NO
reactant | sodium bicarbonate | 2.6 g | C([O-])(O)=O.[Na+]
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 8-benzyloxy-5-{1-oxo-2-[N-(2-(p-methoxypheyl)-1-methylethyl)amino]ethyl}carbostyril hydrochloride | 3.53 g, Yield: 71.6% | Cl.C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C(CNC(CC1=CC=C(C=C1)OC)C)=O | InChI=1S/C28H28N2O4.ClH/c1-19(16-20-8-10-22(33-2)11-9-20)29-17-25(31)23-12-14-26(28-24(23)13-15-27(32)30-28)34-18-21-6-4-3-5-7-21;/h3-15,19,29H,16-18H2,1-2H3,(H,30,32);1H
